US07795247B2
Step 2: 14-cyclohexyl-3-fluoro-6-[(4-methylpiperazin-1-yl)acetyl]-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid
To a solution of 3 eq of (4-methylpiperazin-1-yl)acetic acid in DCM (0.2 M), 4 eq of DIPEA and 2 eq of HATU were added and the mixture stirred at RT for 1 h. Then a solution of 1 eq of 11-carboxy-14-cyclohexyl-3-fluoro-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocin-6-ium trifluoroacetate in DMF (0.06 M) and 1 eq of DIPEA was added and the mixture stirred at RT overnight. Volatiles were removed in vacuo. The crude was then purified by automated RP-MS-HPLC (stationary phase: column Waters SYMMETRY prep. C18, 7 μm, 19×300 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder (51%).

reactant | (4-methylpiperazin-1-yl)acetic acid | 3 eq | CN1CCN(CC1)CC(=O)O | C7H14N2O2
reactant | DIPEA | 4 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 11-carboxy-14-cyclohexyl-3-fluoro-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocin-6-ium trifluoroacetate | 1 eq | FC(C(=O)[O-])(F)F.C(=O)(O)C=1C=CC=2C(=C3N(CC[NH2+]CC4=C3C=CC(=C4)F)C2C1)C1CCCCC1
reactant | DIPEA | 1 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.2 M | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.06 M | CN(C)C=O | C3H7NO
product | 14-cyclohexyl-3-fluoro-6-[(4-methylpiperazin-1-yl)acetyl]-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid | 51% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C(CN2CCN(CC2)C)=O)C=C(C=C1)F)C(=O)O | C31H37FN4O3
